US08710043B2
Step 2. N-((4-Iodophenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide
To a solution of 2-bromo-3-(trifluoromethyl)pyridine (750 mg, 3.32 mmol) (prepared as described in Schlosser, M. et al. Eur. J. Org. Chem. 2003, 1559) in THF (5.0 mL) at −78° C. was added n-butyllithium (3.94 mL, 6.31 mmol, 1.6 M in n-hexane). The resulting mixture was then stirred for 15 min. N-(4-iodobenzylidene)-2-methylpropane-2-sulfinamide (556 mg, 1.66 mmol) in THF (5 mL) was added, and the reaction was allowed to warm to rt and stirred for 4 h. The reaction was quenched with saturated aqueous NH4Cl (10 mL) and stirred rapidly for 1 h. The aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic layers were dried (MgSO4) and concentrated. The product thus obtained was taken into the next step without further purification.

reactant | 2-bromo-3-(trifluoromethyl)pyridine | 3.32 mmol, 750 mg | BrC1=NC=CC=C1C(F)(F)F | C6H3BrF3N
reactant | n-butyllithium | 6.31 mmol, 1.6 M, 3.94 mL | C(CCC)[Li]
reactant | N-(4-iodobenzylidene)-2-methylpropane-2-sulfinamide | 1.66 mmol, 556 mg | IC1=CC=C(C=NS(=O)C(C)(C)C)C=C1 | C11H14INOS
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-((4-Iodophenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | IC1=CC=C(C=C1)C(NS(=O)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C17H18F3IN2OS
